US07572820B2
B. 1-{[5-(2,5-Difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
To a solution of (1Z)-2-[5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide (0.050 g, 0.154 mmol) in anhydrous acetonitrile (2.0 mL) under N2, was added 2,5-difluorobenzoyl chloride (0.121 g, 0.177 mmol) and N,N-diisopropylethylamine (0.50 mL, 5.21 mmol). The mixture was then heated in a microwave at 150° C. for 30 min. Upon cooling, the mixture was poured onto a biotage prepak column and the mixture was purified by flash chromatography (0-25% EtOAc-hexanes gradient) to give 0.029 g (42% yield) of pure product: MS (ES) m/z 446 (M+).

reactant | (1Z)-2-[5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | 0.154 mmol, 0.050 g | C(#N)C=1C(=C2C=C(N(C2=CC1)C/C(/NO)=N/[H])CCC)C(F)(F)F | C15H15F3N4O
reactant | 2,5-difluorobenzoyl chloride | 0.177 mmol, 0.121 g | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | N,N-diisopropylethylamine | 5.21 mmol, 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | 1-{[5-(2,5-Difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.029 g, 42% yield | FC1=C(C=C(C=C1)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C22H15F5N4O
